US08334310B2
To a suspension of (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-amino-tetrahydro-2H-pyran-2,4,5-triyl triacetate hydrochloride (2.04 g, 5.19 mmol) in CH3CN (80 mL) was added ethyl isothiocyanate (1.36 g, 15.57 mmol), followed by triethylamine (0.94 g, 9.31 mmol). The reaction mixture was heated to reflux and stirred for 3 h. The organic layer was concentrated, and redissolved in CH2Cl2. The reaction was then washed with a minimal amount of saturated aqueous NaHCO3 solution. The aqueous layer was extracted an additional two times with CH2Cl2. The organic layer was dried (MgSO4), filtered, and concentrated in vacuo. The desired (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-(3-ethylthioureido)-tetrahydro-2H-pyran-2,4,5-triyl triacetate was obtained as a yellow oil (2.21 g, 98% yield) following flash chromatography (EtOAc/hexanes, 1:1). 1H NMR (500 MHz, CDCl3) δ 1.19 (m, 3H), 1.81 (d, 1H, J=4.0 Hz), 2.05 (s, 3H), 2.08 (s, 3H), 2.10 (s, 3H), 2.14 (s, 3H), 3.40 (s, 1H), 3.85 (m, 1H), 4.12 (m, 1H), 4.28 (m, 1H), 4.81 (s, 1H), 5.19 (m, 1H), 5.73 (d, 1H, J=7.7 Hz), 6.00 (s, 1H), 6.12 (d, 1H, J=15.0 Hz); 13C NMR (125 MHz, CDCl3) δ 14.39, 20.81, 20.96, 21.07, 21.25, 57.84, 60.67, 61.95, 68.08, 72.99, 73.31, 93.12, 163.03, 169.60, 170.97, 171.88.

reactant | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-amino-tetrahydro-2H-pyran-2,4,5-triyl triacetate hydrochloride | 5.19 mmol, 2.04 g | Cl.C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1N)OC(C)=O)OC(C)=O)COC(C)=O
reactant | ethyl isothiocyanate | 15.57 mmol, 1.36 g | C(C)N=C=S | C3H5NS
reactant | triethylamine | 9.31 mmol, 0.94 g | C(C)N(CC)CC | C6H15N
solvent | CH3CN | 80 mL | CC#N | C2H3N
product | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-(3-ethylthioureido)-tetrahydro-2H-pyran-2,4,5-triyl triacetate | C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1NC(=S)NCC)OC(C)=O)OC(C)=O)COC(C)=O | C17H26N2O9S
